US09062034B2
(d) (R)-2-amino-N-(3-methyl-2,3,4,5-tetrahydro-1H-benzo[d]azepin-7-yl)-4-(1H-tetrazol-5-yl)-butyramide
49.8 mg (90 μmol) tert.butyl(R)-[1-(3-methyl-2,3,4,5-tetrahydro-1H-benzo[d]azepin-7-ylcarbamoyl)-3-(1H-tetrazol-5-yl)-propyl]-carbamate are stirred in 1 ml of 2 molar aqueous hydrochloric acid at 50° C. for 2.5 h and then evaporated to dryness.

reactant | tert.butyl(R)-[1-(3-methyl-2,3,4,5-tetrahydro-1H-benzo[d]azepin-7-ylcarbamoyl)-3-(1H-tetrazol-5-yl)-propyl]-carbamate | 90 μmol, 49.8 mg | CN1CCC2=C(CC1)C=C(C=C2)NC(=O)[C@@H](CCC2=NN=NN2)NC(OC(C)(C)C)=O | C21H31N7O3
solvent | hydrochloric acid | 2 molar, 1 ml | Cl | ClH
product | (R)-2-amino-N-(3-methyl-2,3,4,5-tetrahydro-1H-benzo[d]azepin-7-yl)-4-(1H-tetrazol-5-yl)-butyramide | N[C@@H](C(=O)NC1=CC2=C(CCN(CC2)C)C=C1)CCC1=NN=NN1 | C16H23N7O
